************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: buff
* View Name:     schematic
* Netlisted on:  Jul  1 11:22:23 2009
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    buff
* View Name:    schematic
************************************************************************

.SUBCKT buff out in
*.PININFO out:O in:I
MM8 out net17 gnd! gnd! NMOS_VTL W=360n L=50n
MM7 out net17 gnd! gnd! NMOS_VTL W=360n L=50n
MM6 out net17 gnd! gnd! NMOS_VTL W=360n L=50n
MM5 out net17 gnd! gnd! NMOS_VTL W=360n L=50n
MM4 net17 net33 gnd! gnd! NMOS_VTL W=360n L=50n
MM0 net33 in gnd! gnd! NMOS_VTL W=90n L=50n
MM10 out net17 vdd! vdd! PMOS_VTL W=1.44u L=50n
MM9 out net17 vdd! vdd! PMOS_VTL W=1.44u L=50n
MM3 net17 net33 vdd! vdd! PMOS_VTL W=360n L=50n
MM2 net17 net33 vdd! vdd! PMOS_VTL W=360n L=50n
MM1 net33 in vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS


.SUBCKT buff3 in out out_i
*.PININFO in:I out:O out_i:O
MM8 out_i out gnd! gnd! NMOS_VTL W=360n L=50n
MM7 out_i out gnd! gnd! NMOS_VTL W=360n L=50n
MM6 out_i out gnd! gnd! NMOS_VTL W=360n L=50n
MM5 out_i out gnd! gnd! NMOS_VTL W=360n L=50n
MM4 out net33 gnd! gnd! NMOS_VTL W=360n L=50n
MM0 net33 in gnd! gnd! NMOS_VTL W=90n L=50n
MM10 out_i out vdd! vdd! PMOS_VTL W=1.44u L=50n
MM9 out_i out vdd! vdd! PMOS_VTL W=1.44u L=50n
MM3 out net33 vdd! vdd! PMOS_VTL W=360n L=50n
MM2 out net33 vdd! vdd! PMOS_VTL W=360n L=50n
MM1 net33 in vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS


.SUBCKT buff2 in out 
*.PININFO in:I out:O
MM4 out net33 gnd! gnd! NMOS_VTL W=360n L=50n
MM0 net33 in gnd! gnd! NMOS_VTL W=90n L=50n
MM3 out net33 vdd! vdd! PMOS_VTL W=360n L=50n
MM2 out net33 vdd! vdd! PMOS_VTL W=360n L=50n
MM1 net33 in vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

.SUBCKT inverter in out 
*.PININFO in:I out:O 
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n
MM1 out in vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS
